US08791132B2
4-(2,8-Dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-3-pyridin-4-yl-but-3-enoicacid methyl ester (100 mg, 0.266 mmol) was dissolved in MeOH (10 mL) and 10% dry Pd/C (50 mg) was added and hydrogen gas was purged in to the reaction mixture at RT for 12 h. The reaction was monitored by TLC and LCMS. After consumption of starting material, the reaction mixture was filtered through Celite. The filtrate was concentrated to obtain the crude product, which was recrystallized in ether-hexane to obtained 50 mg of 4-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-3-pyridin-4-yl-butyric acid methyl ester. 1H NMR (CDCl3, freebase) δ (ppm): 8.47 (d, 2H), 7.18 (s, 1H), 7.16 (d, 1H), 6.98 (d, 3H), 4.22 (dd, 1H), 4.05 (dd, 1H), 3.7 (m, 2H), 3.57 (s, 3H), 3.5 (dd, 1H), 2.74 (m, 3H), 2.71 (m, 2H), 2.49 (s, 3H), 2.43 (s, 3H), 2.2 (m, 1H). Separation by chiral HPLC provides enantiomers II-223a-b.

reactant | 4-(2,8-Dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-3-pyridin-4-yl-but-3-enoicacid methyl ester | 0.266 mmol, 100 mg | COC(CC(=CN1C2=C(C=3C=C(C=CC13)C)CN(CC2)C)C2=CC=NC=C2)=O | C23H25N3O2
solvent | MeOH | 10 mL | CO | CH4O
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | 4-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-3-pyridin-4-yl-butyric acid methyl ester | 50 mg | COC(CC(CN1C2=C(C=3C=C(C=CC13)C)CN(CC2)C)C2=CC=NC=C2)=O | C23H27N3O2
